US06846832B2
f) 2-[5-(3-Fluoro-benzyloxy)-1-oxo-1,3-dihydro-isoindol-2-yl]-acetamide
A mixture of 5-(3-fluoro-benzyloxy)-2,3-dihydro-isoindol-1-one (400 mg, 1.6 mmol), sodium hydride (55% in mineral oil, 75 mg, 1.7 mmol) in THF (20 mL) was stirred at RT for 45 min, and then 2-bromoacetamide (75 mg, 1.9 mmol) was added and the resulting mixture heated at 50° C. for 16 h. After cooling to RT the mixture was half-evaporated and diluted with water. The mixture was extracted with ethyl acetate and the combined organic layers were washed with brine and dried over sodium sulfate. After filtration and evaporation the residue was purified by chromatography (SiO2, CH2Cl2:2N NH3-MeOH 98:2 to 85:15) to afford the title product (337 mg, 67%) as a white solid. MS m/e=315.3 (M+H+).

reactant | 5-(3-fluoro-benzyloxy)-2,3-dihydro-isoindol-1-one | 1.6 mmol, 400 mg | FC=1C=C(COC=2C=C3CNC(C3=CC2)=O)C=CC1 | C15H12FNO2
reactant | sodium hydride | 1.7 mmol, 75 mg | [H-].[Na+]
reactant | 2-bromoacetamide | 1.9 mmol, 75 mg | BrCC(=O)N | C2H4BrNO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[5-(3-Fluoro-benzyloxy)-1-oxo-1,3-dihydro-isoindol-2-yl]-acetamide | 337 mg, 67% | FC=1C=C(COC=2C=C3CN(C(C3=CC2)=O)CC(=O)N)C=CC1 | C17H15FN2O3
